US04125732
Methyl (p-Isopropylphenoxy){p-[2-(p-fluorophenoxy)propoxy]phenyl}acetate
As described in Example 71, methyl bromo{p-[2-(p-fluorophenoxy)propoxy]phenyl}acetate (0.017 mole) is reacted with p-isopropylphenol (0.017 mole) in 75 ml of tetrahydrofuran at 80° C. for 18 hrs to give the product as a viscous oil.

reactant | methyl bromo{p-[2-(p-fluorophenoxy)propoxy]phenyl}acetate | 0.017 mole | BrC(C(=O)OC)C1=CC=C(C=C1)OCC(C)OC1=CC=C(C=C1)F | C18H18BrFO4
reactant | p-isopropylphenol | 0.017 mole | C(C)(C)C1=CC=C(C=C1)O | C9H12O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | Methyl (p-Isopropylphenoxy){p-[2-(p-fluorophenoxy)propoxy]phenyl}acetate | C(C)(C)C1=CC=C(OC(C(=O)OC)C2=CC=C(C=C2)OCC(C)OC2=CC=C(C=C2)F)C=C1 | C27H29FO5
